US06541473B2
4-(3-Cyclohexen-1-yl)-1,3-benzenediol
To a round bottomed flask was added cis/trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol (208 mg) and dichloromethane (3 ml). The resulting solution was cooled to −78° C., and diethylaminosulfur trifluoride (69 μl) added in one portion. The reaction mixture was allowed to warm to room temperature and stirred for 15 hr. The reaction mixture was partitioned between water (10 ml) and dichloromethane (20 ml), the layers were separated and the aqueous phase was extracted with dichloromethane (3×20 ml). The combined organic phases were washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude oil was dissolved in tetrahydrofuran (3 ml) and tetrabutylammonium fluoride (0.81 ml, 1.0M in tetrahydrofuran) and stirred at room temperature for 15 hr. The reaction mixture was partitioned between water (10 ml) and ethyl acetate (20 ml) and the layers were separated. The aqueous phase was extracted with ethyl acetate (3×20 ml) and the combined organic phases were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether, 3:7 v/v) furnished the title compound (34 mg, 38%) as an off-white solid. δH (CD3OD): 1.69-1.86 (2H, m), 2.00-2.19 (4H, m), 3.09 (1H, tt), 5.67-5.80 (2H, m), 6.16 (1H, d), 6.20 (1H, dd), 6.91 (1H, d); m/z (ES−) 198 (M−H−).

reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol | 208 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)O | C24H44O3Si2
reactant | diethylaminosulfur trifluoride | 69 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-(3-Cyclohexen-1-yl)-1,3-benzenediol | 34 mg, 38% | C1(CC=CCC1)C1=C(C=C(C=C1)O)O | C12H14O2
